US06881746B2
To a mixture of 3-(4-{2-(4-chlorophenyl)-2-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]ethyl}benzoylamino)propionic acid methyl ester (the product from step 5) (0.15 g, 0.255 mmol), N-bromosuccinimide (50 mg, 0.28 mmol) in tetrachloromethane (9 mL) was added a catalytic amount of dibenzoylperoxide and the resulting mixture was stirred at reflux for 4 hours. After cooling, the mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate and the combined organic phases were washed with water (2×) and brine, dried over MgSO4, treated with active carbon, filtered and concentrated in vacuo. The residue (157 mg) was dissolved in DMF (5 mL) and lithium carbonate (21 mg, 0.28 mmol) and lithium bromide (24 mg, 0.28 mmol) were added and the resulting mixture was refluxed for 3.5 hours. After cooling, the mixture was partitioned between water and ethyl acetate. The aqueous phase was extracted with ethyl acetate and the combined organic phases were washed with water (3×) treated with active carbon, dried (MgSO4) and concentrated in vacuo. The residue (56 mg) was purified by HPLC to afford 14 mg of 3-(4-{2-(4-chlorophenyl)-2-[4-(4-trifluoromethoxyphenyl)-thiazol-2-yl]vinyl}benzoylamino)propionic acid methyl ester.

reactant | 3-(4-{2-(4-chlorophenyl)-2-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]ethyl}benzoylamino)propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)CC(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)Cl)=O)=O | C29H24ClF3N2O4S
reactant | N-bromosuccinimide | 0.28 mmol, 50 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | lithium carbonate | 0.28 mmol, 21 mg | C([O-])([O-])=O.[Li+].[Li+]
reactant | lithium bromide | 0.28 mmol, 24 mg | [Br-].[Li+]
solvent | tetrachloromethane | 9 mL | ClC(Cl)(Cl)Cl | CCl4
product | 3-(4-{2-(4-chlorophenyl)-2-[4-(4-trifluoromethoxyphenyl)-thiazol-2-yl]vinyl}benzoylamino)propionic acid methyl ester | 14 mg | COC(CCNC(C1=CC=C(C=C1)C=C(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)Cl)=O)=O | C29H22ClF3N2O4S
